US06008243
According to the procedure described in Example 1(b) for the preparation of 3(R)-t-butoxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester, 2(S)-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]-succinic acid 4-benzyl ester and L-t-leucine N-methylamide (see Malon, P.; Pancoska, P.; Budesinsky, M.; Hlavacek, J.; Pospisek, J.; Blaha, K. Coll. Czech. Chem Commun. 1983, 48, 2844-2861) were coupled with TBTU. Flash column chromatography with 0-5% MeOH/CH2Cl2 as gradient eluant provided in 82% yield N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(S)-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]succinamic acid benzyl ester as a crisp foam. 1H NMR: δ 7.34-7.26 (m, 7H), 7.10 (t, 2H, J=8.6 Hz), 6.95 (t, 1H, J=2.4 Hz), 6.89 (t, 1H, J=2.0 Hz), 6.49 (d, 1H, J=8.8 Hz), 6.23 (dd, 1H, J=1.8, 3.0 Hz), 5.76-5.74 (m, 1H), 5.11 (s, 2H), 4.12 (d, 1H, J=9.2 Hz), 4.00 (t, 1H, J=7.2 Hz), 3.20 (dd, 1H, J=7.7, 16.5 Hz), 2.84 (dd, 1H, J=6.6, 16.6 Hz), 2.75 (d, 3H, J=4.8 Hz), 0.95 (s, 9H). Anal. Calculated for C28H32N3O4F: C, 67.89; H, 6.55; N, 8.48. Found: C, 67.78; H, 6.52; N, 8.50.

reactant | 3(R)-t-butoxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)NC(=O)OC(C)(C)C)=O | C23H35N3O6
reactant | 2(S)-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]-succinic acid 4-benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)O)C1=CN(C=C1)C1=CC=C(C=C1)F)=O | C21H18FNO4
reactant | L-t-leucine N-methylamide | CNC([C@@H](N)C(C)(C)C)=O | C7H16N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(S)-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]succinamic acid benzyl ester | 82% yield | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)C1=CN(C=C1)C1=CC=C(C=C1)F)=O | C28H32FN3O4
